US07888352B2
To a stirring suspension (2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol in toluene at 40° C. was added PBr3 and the reaction mixture stirred at 100° C. overnight. DCM/saturated aqueous NaHCO3 extraction of the cooled mixture gave 6-Bromomethyl-2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine.

reactant | (2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol | ClC=1N=C(C2=C(N1)C(=C(S2)CO)C)N2CCOCC2 | C12H14ClN3O2S
reactant | PBr3 | P(Br)(Br)Br | Br3P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-Bromomethyl-2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | BrCC1=C(C=2N=C(N=C(C2S1)N1CCOCC1)Cl)C | C12H13BrClN3OS
